US04568377
2-(2-Fluorophenyl)-3-oxo-4-(3-methoxycarbonylphenyl)-5-allylamino-2,3-dihydrofuran
One gram of sodium hydroxide in 4.0 ml of water is added to a mixture of 4.0 g of 2-(2-fluorophenyl)-3-oxo-4-(3-methoxycarbonylphenyl)-5-methylamino-2,3-dihydrofuran in 80 ml of methylene chloride at room temperature followed by the addition of 1.48 g of allyl bromide and 0.27 g of benzyltriethylammonium chloride. This will result in a two-phase mixture. This mixture is stirred at room temperature for about 18 hours and this is washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue is purified by chromatography over silica gel eluting with chloroform to yield the title compound.

reactant | sodium hydroxide | One gram | [OH-].[Na+]
reactant | 2-(2-fluorophenyl)-3-oxo-4-(3-methoxycarbonylphenyl)-5-methylamino-2,3-dihydrofuran | 4.0 g | FC1=C(C=CC=C1)C1OC(=C(C1=O)C1=CC(=CC=C1)C(=O)OC)NC | C19H16FNO4
reactant | allyl bromide | 1.48 g | C(C=C)Br | C3H5Br
solvent | water | 4.0 ml | O | H2O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 0.27 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 2-(2-Fluorophenyl)-3-oxo-4-(3-methoxycarbonylphenyl)-5-allylamino-2,3-dihydrofuran | FC1=C(C=CC=C1)C1OC(=C(C1=O)C1=CC(=CC=C1)C(=O)OC)NCC=C | C21H18FNO4
